US07541374B2
The mixture of 1.15 g of 3-i-propyl-1H-1,2,4-triazole, 0.94 g of paraformaldehyde and 0.14 g of triethylamine was stirred at 150° C. for 5 hours. After the reaction mixture was cooled to room temperature, acetone was added. The mixture was filtered. The filtrate was concentrated under reduced pressure. Hexane was added to the obtained residue, as a result, a crystal was formed. The crystal was collected to obtain 1.28 g of 3-i-propyl-1H-triazole-1-ylmethanol.

reactant | 3-i-propyl-1H-1,2,4-triazole | 1.15 g | C(C)(C)C1=NNC=N1 | C5H9N3
reactant | paraformaldehyde | 0.94 g | C=O | CH2O
reactant | triethylamine | 0.14 g | C(C)N(CC)CC | C6H15N
reactant | acetone | CC(=O)C | C3H6O
product | 3-i-propyl-1H-triazole-1-ylmethanol | 1.28 g | C(C)(C)N1NN(C=C1)CO | C6H13N3O
